US08440702B2
Step A: 2-fluoro-2′-methylbiphenyl-4-yl methyl ether
A mixture of 4-bromo-3-fluoroanisole, 2-methylphenyl boronic acid, tetrakis(triphenylphosphine)palladium (5% mol) and sodium carbonate (0.23 g, 2.1 mmol) in 20 ml of water/EtOH/toluene (1:2:4) was heated to reflux for 5 h. TLC (EtOAc:hexane/2:98) showed that the reaction was over. The solvents was removed. Water (10 ml) was added. The organic was extracted with methylene chloride (3×50 ml). The combined methylene chloride layers were washed with brine, and dried over sodium sulfate. The title compound was obtained after purification with preparative TLC using 2% EtOAc in hexane as the eluant.

reactant | 4-bromo-3-fluoroanisole | BrC1=C(C=C(C=C1)OC)F | C7H6BrFO
reactant | 2-methylphenyl boronic acid | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | 2.1 mmol, 0.23 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water EtOH toluene | 20 ml | O.CCO.C1(=CC=CC=C1)C
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | hexane | CCCCCC | C6H14
product | 2-fluoro-2′-methylbiphenyl-4-yl methyl ether | COC1=CC(=C(C=C1)C1=C(C=CC=C1)C)F | C14H13FO
